US07696215B2
Using an analogous procedure to that described paragraph (A) in the portion of Example 4, 3-[8-cyano-6-(4-methylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoic acid was reacted with 3-aminoisoxazole to give 3-[8-cyano-6-(4-methylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]-N-isoxazol-3-yl-4-methylbenzamide; NMR Spectrum: (DMSOd6) 2.19 (s, 3H), 2.24 (s, 3H), 2.49 (m, 4H), 3.35 (m, 4H), 7.04 (d, 1H), 7.61 (d, 1H), 7.70 (d, 1H), 8.11 (m, 3H), 8.30 (s, 1H), 8.84 (d, 1H), 11.46 (s, 1H); Mass Spectrum: M+H+ 470.

reactant | 3-[8-cyano-6-(4-methylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]-4-methylbenzoic acid | C(#N)C=1C=C(C=C2C(N(C=NC12)C=1C=C(C(=O)O)C=CC1C)=O)N1CCN(CC1)C | C22H21N5O3
reactant | 3-aminoisoxazole | NC1=NOC=C1 | C3H4N2O
product | 3-[8-cyano-6-(4-methylpiperazin-1-yl)-4-oxoquinazolin-3(4H)-yl]-N-isoxazol-3-yl-4-methylbenzamide | C(#N)C=1C=C(C=C2C(N(C=NC12)C=1C=C(C(=O)NC2=NOC=C2)C=CC1C)=O)N1CCN(CC1)C | C25H23N7O3
